US07375104B2
a) 1-{3-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-dipropyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one
86 μL (0.619 mmol) of triethylamine is added to a solution of 200 mg (0.564 mmol) of 1-(3-amino-3methylbutyl)-4,4-dipropyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one hydrochloride in absolute THF (5 mL) at RT under a nitrogen atmosphere and the mixture is stirred for 30 minutes, 200 mg (0.560 mmol) of 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one is added and the mixture is stirred for another 2 h at RT. The mixture is cooled to 10° C., combined with 51 mg (2.34 mmol) of lithium borohydride, heated to RT, and stirred for 1 hour at RT. It is again cooled to 10° C. and slowly combined with 15 mL water and 20 mL dichloromethane. The phases are separated and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried with sodium sulfate and evaporated down in vacuo. The residue is dissolved in EtOAc (8 mL) and acidified to pH 2 by the addition of HCl solution (saturated in EtOAc). The precipitate formed is filtered off, washed with EtOAc and dried in vacuo. Yield: 270 mg (74%; hydrochloride), HPLC-MS: Rt=18.7 min. (method A).

reactant | triethylamine | 0.619 mmol, 86 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-amino-3methylbutyl)-4,4-dipropyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one hydrochloride | 0.564 mmol, 200 mg | Cl.NC(CCN1C(OC(C2=C1C=CC=C2)(CCC)CCC)=O)(C)C
reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 0.560 mmol, 200 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)=O | C19H19NO6
reactant | lithium borohydride | 2.34 mmol, 51 mg | [BH4-].[Li+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 15 mL | O | H2O
product | 1-{3-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-dipropyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CCN1C(OC(C2=C1C=CC=C2)(CCC)CCC)=O)(C)C)O | C36H45N3O6
